US06476268B1
Batchwise Synthesis of (R)-N-benzyl-1-phenylethylamine
412 kg of methanol and 375.7 kg of (R)-1-phenylethylamine (ee=97.1%) are initially taken and 329 kg of benzaldehyde are added dropwise at 24° C. in the course of 120 minutes. Stirring is effected for 6 hours at 24° C., the completeness of the iminization is checked by GC, 6 kg of Pd/C (5% by weight) are added and the crude mixture is hydrogenated with hydrogen for 24 hours at atmospheric pressure. The sample is taken and the composition is investigated by GC analysis.

reactant | (R)-1-phenylethylamine | 375.7 kg | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | benzaldehyde | 329 kg | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 6 kg | [Pd] | Pd
solvent | methanol | 412 kg | CO | CH4O
product | (R)-N-benzyl-1-phenylethylamine | C(C1=CC=CC=C1)N[C@H](C)C1=CC=CC=C1 | C15H17N
